US08067408B2
3-{[({3′-[(4-{[(1,1-Dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]carbonyl}benzoic Acid
To a solution of 1,1-dimethylethyl 4-[(2′-fluoro-5′-{[({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate (0.26 g, 0.463 mmol) in MeOH/H2O (2/1 mL) was added LiOH.H2O (0.0971 g, 2.32 mmol). The mixture was heated with a microwave at 80° C. for 30 min. Then HCl was added to adjust the pH to ˜5. Then solvents were removed. The residue was extracted with DCM to afford the title compound 0.256 g (100%). LC-MS m/z 548 (M+H)+.

reactant | 1,1-dimethylethyl 4-[(2′-fluoro-5′-{[({3-[(methyloxy)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.463 mmol, 0.26 g | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)C(=O)OC)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C32H36FN3O5
reactant | LiOH.H2O | 2.32 mmol, 0.0971 g | O[Li].O
reactant | HCl | Cl | ClH
solvent | MeOH H2O | 1 mL | CO.O
product | 3-{[({3′-[(4-{[(1,1-Dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]carbonyl}benzoic Acid | 0.256 g, 100% | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(=O)C=1C=C(C(=O)O)C=CC1 | C31H34FN3O5
